US06420426B1
A solution of 5-chloro-2-hydroxy-benzoyl chloride (4.00 g, 23.2 mmol) in dichloromethane (46 mL, 0.5 M) was treated with triethylamine (6.46 mL, 46.4 mmol) and 4-bromo-2-fluorobenzylamine (6.10 g, 30.1 mmol). After stirring at room temperature for 16 h, the solution was washed successively with 2 N HCl and saturated aq NaCl. The organic layer was dried over Na2SO4, filtered and concentrated. Purification by MPLC (10-50% ethyl acetate in heptane, 23 mL/min, 70 min) gave N-(4-bromo-2-fluoro-benzyl)-4-chloro-2-hydroxy-benzamide as a white crystalline solid (4.4 g, 53%): mp 159-161° C.; Rf 0.49 (30% ethyl acetate in heptane); 1H NMR (DMSO-d6, 300 MHz) δ 12.56 (br s, 1H), 9.28 (br t, J=5.4 Hz, 1H), 7.88 (d, J=6.0 Hz, 1H), 7.50 (dd, J1=9.9 Hz, J2=1.8 Hz, 1H), 7.37 (dd, J1=8.4 Hz, J2=1.8 Hz, 1H), 7.33 (dd, J1=15.9 Hz, J2=8.1 Hz, 1H), 6.99-6.93 (m, 2H), 4.50-4.46 (m, 2H). ESI-LC/MS m/z calcd for C14H10BrClFNO2: 358.6; found 360.0 (M+1)+. Anal. calcd for C14H10BrClFNO2: C, 46.89; H, 2.81; N, 3.91; Cl, 19.78. Found C, 46.89; H, 2.81; N, 3.90; Cl, 19.73.

reactant | 5-chloro-2-hydroxy-benzoyl chloride | 23.2 mmol, 4.00 g | ClC=1C=CC(=C(C(=O)Cl)C1)O | C7H4Cl2O2
reactant | triethylamine | 46.4 mmol, 6.46 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-2-fluorobenzylamine | 30.1 mmol, 6.10 g | BrC1=CC(=C(CN)C=C1)F | C7H7BrFN
reactant | dichloromethane | 0.5 M, 46 mL | ClCCl | CH2Cl2
product | N-(4-bromo-2-fluoro-benzyl)-4-chloro-2-hydroxy-benzamide | 4.4 g, 53% | BrC1=CC(=C(CNC(C2=C(C=C(C=C2)Cl)O)=O)C=C1)F | C14H10BrClFNO2
